US04988827
B. Synthesis of 3-formamido-3-methyl-1-butyl formate
Formic acid (6.90 g, 0.15 mol) was added to acetic anhydride (15.30 g, 0.15 mol) and warmed to 45°-50° C. for one hour on a water bath. The resulting solution was cooled to below 0° C. in an ice/acetone bath. 3-Formamido-3-methyl-1-butanol (13.10 g, 0.10 mol) was added and the solution allowed to slowly warm to room temperature with stirring (16 hours). The solution was distilled under vacuum (1 Torr, 105°-110° C.) to yield 12.43 g (78%).

reactant | Formic acid | 0.15 mol, 6.90 g | C(=O)O | CH2O2
reactant | acetic anhydride | 0.15 mol, 15.30 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-Formamido-3-methyl-1-butanol | 0.10 mol, 13.10 g | C(=O)NC(CCO)(C)C | C6H13NO2
product | 3-formamido-3-methyl-1-butyl formate | C(=O)OCCC(C)(C)NC=O | C7H13NO3
